US05367093
Preparation of (4-bromo-[1,1'-biphenyl]-3-yl)hydrazine hydrochloride (chemical intermediate)
To 4 g of 4-bromo-[1,1'-biphenyl]-3-amine were added 25 ml of water and 50 ml of concentrated HCl with stirring. The solution was cooled to 0° C. A solution of 1.1 g of sodium nitrite in 6 ml of water was then added dropwise while maintaining a temperature of 0° C. After this addition, the mixture was stirred at 0° C. for one hour. A solution of 20 g of stannous chloride in 20 ml of concentrated HCl cooled to -20° C. was added to the reaction mixture and again the mixture was stirred for one hour.

reactant | 4-bromo-[1,1'-biphenyl]-3-amine | 4 g | BrC1=C(C=C(C=C1)C1=CC=CC=C1)N | C12H10BrN
reactant | sodium nitrite | 1.1 g | N(=O)[O-].[Na+]
reactant | HCl | 20 ml | Cl | ClH
reactant | HCl | 50 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | (4-bromo-[1,1'-biphenyl]-3-yl)hydrazine hydrochloride | Cl.BrC1=C(C=C(C=C1)C1=CC=CC=C1)NN | InChI=1S/C12H11BrN2.ClH/c13-11-7-6-10(8-12(11)15-14)9-4-2-1-3-5-9;/h1-8,15H,14H2;1H
